US08912224B2
To a suspension of 2-(2-phenyl-chroman-6-yloxy)-thiazole-5-carbaldehyde (54 mg, 0.13 mmol) and pyridin-4-yl-methylamine (17 mg, 0.16 mmol, 1.2 eq) in tetrahydrofuran (3 ml) and acetic acid (0.5 ml) at 0° C. sodium cyanoborohydride (polymer bond, 2.19 mM/g, 137 mg, 0.30 mmol, 2.3 eq) was added and the mixture stirred at 40° C. for 16 h. The reaction mixture was filtered, the volatile components removed under reduced pressure and the remaining residue purified by reversed phase HPLC (water/acetonitrile gradient (+0.1% trifluoroacetic acid)) to give 30 mg (42%) of [2-(2-phenyl-chroman-6-yloxy)-thiazol-5-ylmethyl]-pyridin-4-ylmethyl-amine in the form of its salt with trifluoroacetic acid.

reactant | 2-(2-phenyl-chroman-6-yloxy)-thiazole-5-carbaldehyde | 0.13 mmol, 54 mg | C1(=CC=CC=C1)C1OC2=CC=C(C=C2CC1)OC=1SC(=CN1)C=O | C19H15NO3S
reactant | pyridin-4-yl-methylamine | 0.16 mmol, 17 mg, 1.2 eq | N1=CC=C(C=C1)NC | C6H8N2
reactant | sodium cyanoborohydride | 0.30 mmol, 137 mg, 2.3 eq | C(#N)[BH3-].[Na+]
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
product | [2-(2-phenyl-chroman-6-yloxy)-thiazol-5-ylmethyl]-pyridin-4-ylmethyl-amine | 30 mg, 42% | C1(=CC=CC=C1)C1OC2=CC=C(C=C2CC1)OC=1SC(=CN1)CNCC1=CC=NC=C1 | C25H23N3O2S
